US05354495
A solution of methacryloyl isocyanate (11.1 g; 100 mmol) in dichloroethane (22 g) and methyl p-hydroxybenzoic acid (15.0 g; 100 mmol) were added to benzene (30 g), and the resultant mixture was heated at 80° C. under reflux for 60 minutes. The solvent was removed by evaporation under reduced pressure to give p-methoxycarbonylphenyl N-methacryloylcarbamate as crude crystals. Recrystallization from a mixture of hexane and chloroform gave colorless prisms. M.P., 98°-100° C.

reactant | methacryloyl isocyanate | 100 mmol, 11.1 g | C(C(=C)C)(=O)N=C=O | C5H5NO2
reactant | methyl p-hydroxybenzoic acid | 100 mmol, 15.0 g | CC1=C(C(=O)O)C=CC(=C1)O | C8H8O3
reactant | benzene | 30 g | C1=CC=CC=C1 | C6H6
solvent | dichloroethane | 22 g | ClC(C)Cl | C2H4Cl2
product | p-methoxycarbonylphenyl N-methacryloylcarbamate | C(C(=C)C)(=O)NC(OC1=CC=C(C=C1)C(=O)OC)=O | C13H13NO5
